US05358949
To 2.7 g of ethyl 3-acetylamino-8-methyl-3,4-dihydrocarbostyril-3-carboxylate was added 60 ml of 20%-hydrochloric acid, then the mixture was refluxed by heating for 2 hours. The solvent was removed by evaporation, then water was removed by azetropic distillation with ethanol. The residue thus obtained was recrystallized from methanol-diethyl ether to obtain 1.74 g of 3-amino-8-methyl-3,4-dihydrocarbostyril hydrochloride. Colorless flake-like crystals. Melting point: Over 300° C.

reactant | ethyl 3-acetylamino-8-methyl-3,4-dihydrocarbostyril-3-carboxylate | 2.7 g | C(C)(=O)NC1(C(NC2=C(C=CC=C2C1)C)=O)C(=O)OCC | C15H18N2O4
reactant | hydrochloric acid | Cl | ClH
product | 3-amino-8-methyl-3,4-dihydrocarbostyril hydrochloride | 1.74 g | Cl.NC1C(NC2=C(C=CC=C2C1)C)=O | InChI=1S/C10H12N2O.ClH/c1-6-3-2-4-7-5-8(11)10(13)12-9(6)7;/h2-4,8H,5,11H2,1H3,(H,12,13);1H
